US09382254B2
Intermediate 6: 2-Acetylamino-5-chloro-4-methyl-thiophene-3-carboxylic acid amide
2-acetylamino-4-methylthiophene-3-carboxylic acid amide (2 g, 10.1 mmol) is dissolved in MeOH (40 mL). NCS (1.47 g, 11.1 mmol) is added and the resulting suspension is stirred at 60° C. for 1 h. The mixture is then concentrated under vacuo, the obtained residue is dissolved in DCM and washed with aqueous NaHCO3. The organic phase is then dried over MgSO4, filtered and concentrated under vacuo to yield the desired compound which is used as such.

reactant | 2-acetylamino-4-methylthiophene-3-carboxylic acid amide | 10.1 mmol, 2 g | C(C)(=O)NC=1SC=C(C1C(=O)N)C | C8H10N2O2S
reactant | NCS | 11.1 mmol, 1.47 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | MeOH | 40 mL | CO | CH4O
product | 2-Acetylamino-5-chloro-4-methyl-thiophene-3-carboxylic acid amide | C(C)(=O)NC=1SC(=C(C1C(=O)N)C)Cl | C8H9ClN2O2S
